US05378728
A. 4-(2,2-dimethyl-1-oxopropyl)-N-(4-ethoxycarbonylphenyl) benzamide
A mixture of 247.5 grams (1.5 moles) of p-aminoethylbenzoate and 171.7 grams (1.7 moles) of triethylamine in 6 liters of ether is cooled to -30°; and 336 grams (1.5 moles) p-pivaloyl benzoyl chloride in 1.5 liters of ether is added dropwise while maintaining the temperature during addition between -30° and -50° C. At the end of the addition, the reaction mixture is allowed to warm to room temperature and is stirred overnight. One liter of water is then added to the mixture, and the stirring is continued for 2 hours at room temperature. The mixture is filtered and the solid obtained is washed with water and cold ether to yield the title product (M.P 157°-159° C.).

reactant | p-aminoethylbenzoate | 1.5 moles, 247.5 grams | NCCC1=CC=C(C(=O)[O-])C=C1
reactant | triethylamine | 1.7 moles, 171.7 grams | C(C)N(CC)CC | C6H15N
reactant | p-pivaloyl benzoyl chloride | 1.5 moles, 336 grams | C(C(C)(C)C)(=O)C1=CC=C(C(=O)Cl)C=C1 | C12H13ClO2
reactant | water | One liter | O | H2O
reactant | ether | 6 liters | CCOCC | C4H10O
reactant | ether | 1.5 liters | CCOCC | C4H10O
product | 4-(2,2-dimethyl-1-oxopropyl)-N-(4-ethoxycarbonylphenyl) benzamide | CC(C(=O)C1=CC=C(C(=O)NC2=CC=C(C=C2)C(=O)OCC)C=C1)(C)C | C21H23NO4
